US05025031
Sulfamic acid 4-methyl-2-oxo-2H-1-benzopyran-7-yl ester
A slurry of 7-hydroxy-4-methylcoumarin (17.6 g, 0.10 mole) in acetonitrile (100 ml) was treated with a total of 84 ml of 3 M sulfamoyl chloride (0.255 mole) in acetonitrile. The mixture was then treated dropwise with triethylamine (25.8 g, 0.255 mole). The reaction temperature was allowed to rise to 45° C. without any cooling. The mixture was stirred overnight at ambient temperature. The precipitate was collected, triturated with water, and dried in a vacuum oven at 70° C. for 15 hr to give 10.5 g (41%) of white powder, mp 161°-164° C.

reactant | 7-hydroxy-4-methylcoumarin | 0.10 mole, 17.6 g | OC1=CC=C2C(=CC(OC2=C1)=O)C | C10H8O3
reactant | sulfamoyl chloride | 0.255 mole, 3 M, 84 ml | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | triethylamine | 0.255 mole, 25.8 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Sulfamic acid 4-methyl-2-oxo-2H-1-benzopyran-7-yl ester | 10.5 g, 41% | CC1=CC(OC2=C1C=CC(=C2)OS(N)(=O)=O)=O | C10H9NO5S
